US04421744
H-Tyr(But)-Gly-Gly-Phe-Leu-OBut (2.0 g., 3 mM) was dissolved in ethanol (90 ml.). To the solution were added sodium bicarbonate (0.378 g., 4.5 mM) and allyl bromide (0.387 ml., 4.5 mM). The solution was stirred and refluxed for 20 hours. The solvent was then evaporated in vacuo and the residue dissolved in a mixture of ethyl acetate (120 ml.) and water (80 ml.). The two phases were separated and the organic phase was washed with saturated brine (80 ml.) and dried (Na2SO4). The solvent was evaporated in vacuo to give a gum-like residue which was chromatographed using the dry column chromatography technique with ethyl acetate/methanol 90:10 v/v as eluent. The product band was eluted from the column with ethyl acetate/methanol 85:15 v/v. The solvent was evaporated in vacuo from the eluate to give allyl-Tyr(But)-Gly-Gly-Phe-Leu-OBut having Rf 0.48 (t.l.c. on silica gel; ethyl acetate/methanol 90:10 v/v).

reactant | H-Tyr(But)-Gly-Gly-Phe-Leu-OBut | 3 mM, 2.0 g | N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)NCC(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C | C36H53N5O7
reactant | sodium bicarbonate | 4.5 mM, 0.378 g | C([O-])(O)=O.[Na+]
reactant | allyl bromide | 4.5 mM, 0.387 ml | C(C=C)Br | C3H5Br
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | allyl-Tyr(But)-Gly-Gly-Phe-Leu-OBut | N([C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)NCC(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C)CC=C | C39H57N5O7
